US08048899B2
Synthesis of 3-Ethoxy-2,2-dimethyl-propionic acid methyl ester
60% Sodium hydride in mineral oil (1.6 g, 39.2 mmol) is added to a solution of 3-hydroxy-2,2-dimethyl-propionic acid methyl ester (2.0 mL, 15.7 mmol) in 30.0 mL of DMF, followed by the addition of iodoethane (3.1 mL, 39.2 mmol) and the reaction mixture is stirred at room temperature for 1 hour. After this time, the reaction mixture is quenched with saturated NH4Cl aqueous solution and then extracted with dichloromethane twice. The organics are combined and washed with water twice then brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield 2.512 g of the title compound. Yield: quantitative; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.16 (3H, t, J=8.0 Hz), 1.20 (6H, s), 3.41 (2H, s), 3.48 (2H, q, J=8.0 Hz), 3.70 (3H, s).

reactant | Sodium hydride | [H-].[Na+]
reactant | 3-hydroxy-2,2-dimethyl-propionic acid methyl ester | 15.7 mmol, 2.0 mL | COC(C(CO)(C)C)=O | C6H12O3
reactant | iodoethane | 39.2 mmol, 3.1 mL | ICC | C2H5I
solvent | DMF | 30.0 mL | CN(C)C=O | C3H7NO
product | 3-Ethoxy-2,2-dimethyl-propionic acid methyl ester | 2.512 g, Yield: quantitative | COC(C(COCC)(C)C)=O | C8H16O3
